US07989444B2
10-bromo-2-methyl-7-(4-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}butyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 10-bromo-2-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (100 mg) and 5-{5-[(4-chlorobutyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline (177 mg) and was obtained as a colourless slightly hygroscopic solid (127 mg).

reactant | 10-bromo-2-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 100 mg | BrC1=C2C(=CC=3CCNCCC31)N=C(O2)C | C12H13BrN2O
reactant | 5-{5-[(4-chlorobutyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | 177 mg | ClCCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C17H19ClN4S
product | 10-bromo-2-methyl-7-(4-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}butyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.BrC1=C2C(=CC=3CCN(CCC31)CCCCSC3=NN=C(N3C)C3=C1C=CC(=NC1=CC=C3)C)N=C(O2)C | InChI=1S/C29H31BrN6OS.ClH/c1-18-9-10-22-23(7-6-8-24(22)31-18)28-33-34-29(35(28)3)38-16-5-4-13-36-14-11-20-17-25-27(37-19(2)32-25)26(30)21(20)12-15-36;/h6-10,17H,4-5,11-16H2,1-3H3;1H
